US07566712B2
AA. 4-(3-Chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(1,2,3,6-tetrahydro-1-isopropylpyridin-4-yl)pyrimidine
Dissolve 4-(3-chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(pyridin-4-yl)pyrimidine (40 mg) and 2-bromopropane (0.1 mL) in DMF (1.5 mL) under nitrogen atmosphere. Heat the mixture in a sealed tube at 120° C. for 48 hours. Cool the mixture to room temperature and then add NaBH4 (50 mg). Stir the mixture at room temperature for 20 hours, dilute with water (5 mL), extract with EtOAc (3×3 mL) and dry over MgSO4. Filter, and concentrate under vacuum to afford crude product and purify by flash column chromatography using 20% EtOAc/hexane to afford the title product as white solid. Mass spec m/z=561.27.

reactant | 4-(3-chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(pyridin-4-yl)pyrimidine | 40 mg | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C1=CC=NC=C1 | C25H19ClF4N6
reactant | 2-bromopropane | 0.1 mL | BrC(C)C | C3H7Br
reactant | NaBH4 | 50 mg | [BH4-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 4-(3-Chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(1,2,3,6-tetrahydro-1-isopropylpyridin-4-yl)pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C=1CCN(CC1)C(C)C | C28H29ClF4N6
